US05459138
4-AMINOPYRIDINE-3-SULFONAMIDE
15 g of 4-chloropyridine-3-sulfonamide are dissolved in 150 cm3 of concentrated aqueous ammonia. The clear solution is saturated with a stream of gaseous ammonia for exactly half an hour before being introduced into a sealed tube. The tube is placed at 150° C. for 18 hours.

reactant | 4-chloropyridine-3-sulfonamide | 15 g | ClC1=C(C=NC=C1)S(=O)(=O)N | C5H5ClN2O2S
reactant | ammonia | 150 cm3 | N | H3N
product | 4-AMINOPYRIDINE-3-SULFONAMIDE | NC1=C(C=NC=C1)S(=O)(=O)N | C5H7N3O2S
